US04643996
5-(p-Chlorophenyl)-2-furoic Acid 2,2-Dimethylhydrazide
To a solution of 36 g (0.60 mole) of dimethylhydrazine and 150 ml of benzene was added portionwise 60 g (0.25 mole) of 5-(p-chlorophenyl)-2-furoyl chloride with the temperature being controlled below 50° by means of an ice bath. The reaction mixture was refluxed for 2 hours with dissolution, cooled and the resulting precipitate filtered, washed with water and dried at 60° to yield 48 g (73%). An analytical sample was prepared by recrystallizing a sample from ethyl acetate/Darco and drying in the vacuum pistol at room temperature, m.p. 150°-152°.

reactant | dimethylhydrazine | 0.60 mole, 36 g | CNNC | C2H8N2
reactant | 5-(p-chlorophenyl)-2-furoyl chloride | 0.25 mole, 60 g | ClC1=CC=C(C=C1)C1=CC=C(O1)C(=O)Cl | C11H6Cl2O2
reactant | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 5-(p-Chlorophenyl)-2-furoic Acid 2,2-Dimethylhydrazide | CN(NC(=O)C=1OC(=CC1)C1=CC=C(C=C1)Cl)C | C13H13ClN2O2
